US08314100B2
b) 2-Amino-6-chloro-3-methoxyquinoxaline
To 6-chloro-2-(2,4-dimethoxybenzylamino)-3-methoxyquinoxaline (4.42 g, 12.3 mmol), 50 ml of 50% trifluoroacetic acid in dichloromethane was added at room temperature. The resulting mixture was stirred at room temperature for 18 hours and concentrated under the reduced pressure to remove the solvent. The residue was neutralized with saturated sodium bicarbonate solution and then NaCl solution was added thereto. The product was extracted with dichloromethane and the organic layer was dried over MgSO4. After concentration under the reduced pressure, the crude product was purified by SiO2 column chromatography. Extraction of the residue with a n-hexane:ethyl acetate (4:1) mixture and concentration gave 1.52 g of the titled compound (yield, 59%).

reactant | 6-chloro-2-(2,4-dimethoxybenzylamino)-3-methoxyquinoxaline | 12.3 mmol, 4.42 g | ClC=1C=C2N=C(C(=NC2=CC1)NCC1=C(C=C(C=C1)OC)OC)OC | C18H18ClN3O3
reactant | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Amino-6-chloro-3-methoxyquinoxaline | 1.52 g, 59% | NC1=NC2=CC=C(C=C2N=C1OC)Cl | C9H8ClN3O
